US08258144B2
Butyl 2-(1-(2-(2-oxo-1,2,3,4-tetrahydroquinolin-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-4-yl)acetate
A mixture of ethyl 2-(1-(2-chloro-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-4-yl)acetate (135 mg, 0.419 mmol), 6-amino-3,4-dihydroquinolin-2(1H)-one (97 mg, 0.600 mmol) and trimethylsilyl chloride (0.200 mL, 1.58 mmol) in nBuOH (4 mL) was stirred at 135° C. for 20 h. More trimethylsilyl chloride (0.200 mL, 1.58 mmol) was added. It was stirred at 135° C. for another 20 h. It was concentrated in vacuo. The residue was purified by HPLC to give the titled compound (54 mg). MS 477.3 (M+H); UV 200.0, 279.8 nm.

reactant | ethyl 2-(1-(2-chloro-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-4-yl)acetate | 0.419 mmol, 135 mg | ClC=1N=C(C2=C(N1)NC=C2)N2CCC(CC2)CC(=O)OCC | C15H19ClN4O2
reactant | 6-amino-3,4-dihydroquinolin-2(1H)-one | 0.600 mmol, 97 mg | NC=1C=C2CCC(NC2=CC1)=O | C9H10N2O
reactant | trimethylsilyl chloride | 1.58 mmol, 0.200 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | trimethylsilyl chloride | 1.58 mmol, 0.200 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | nBuOH | 4 mL | C(CCC)O | C4H10O
product | Butyl 2-(1-(2-(2-oxo-1,2,3,4-tetrahydroquinolin-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-4-yl)acetate | 54 mg | O=C1NC2=CC=C(C=C2CC1)NC=1N=C(C2=C(N1)NC=C2)N2CCC(CC2)CC(=O)OCCCC | C26H32N6O3
